US06002008
N-{3-Cyano-4-[(3-isopropylphenyl)amino]-6-quinolinyl}-2-butynamide
Dissolved 695 mg (8.27 mmol) 2-butynoic acid in 40 ml THF and chilled to 0° C. under N2. Added 1.08 ml (8.30 mmol) isobutyl chloroformate and 910 μl (8.27 mmol) N-methylmorpholine and stirred for 10 minutes. Dropwise added a solution of 1.00 g (3.31 mmol) 6-amino-4-[(3-isopropylphenyl)amino]-3-quinolinecarbonitrile in 2.0 ml DMF and 15 ml THF. Removed ice bath at 15 minutes and stirred at 25° C. overnight. Stripped solvent, slurried residue with water, and collected solid. Recrystallized from ethyl acetate and dried in vacuo, giving 329 mg of yellow-green solid: mass spectrum (electrospray m/e): M+H=369.2.

reactant | 2-butynoic acid | 8.27 mmol, 695 mg | C(C#CC)(=O)O | C4H4O2
reactant | isobutyl chloroformate | 8.30 mmol, 1.08 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 8.27 mmol, 910 μl | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(3-isopropylphenyl)amino]-3-quinolinecarbonitrile | 3.31 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C(C)C | C19H18N4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{3-Cyano-4-[(3-isopropylphenyl)amino]-6-quinolinyl}-2-butynamide | 329 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)C(C)C)NC(C#CC)=O | C23H20N4O
